US05552428
2-Methylmelatonin (4a).
To a cold solution in THF (15 mL) of the crude 2-methyl-5-methoxytryptamine, from the step above, TEA (0.7 mL) and 0.47 mL of Ac2O were added. The ice bath was removed and the solution stirred for 8 h. The solvent was evaporated in vacuo, the residue was taken up in ethyl acetate and washed with a saturated aqueous solution of NaHCO3 followed by saturated NaCl solution. The organic phase was dried (Na2SO4), concentrated under vacuum and the crude oil residue was purified by flash chromatography (silica gel; ethyl acetate-cyclohexane, 7:3) and crystallization. The overall yield of 4a was 0.541 g (44%); mp 122° C.; 1H NMR data were identical with that reported in literature (Flaugh et at., J. Med. Chem. 22, 63-67 (1979).

reactant | 2-methyl-5-methoxytryptamine | CC1=C(CCN)C2=CC(=CC=C2N1)OC | C12H16N2O
reactant | Ac2O | 0.47 mL | CC(=O)OC(=O)C | C4H6O3
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-Methylmelatonin | CC1=C(C2=C(N1)C=CC(=C2)OC)CCNC(=O)C | C14H18N2O2
